US05270309
Reaction of 3-chloro-5-ethylaniline (0.9 g) with diethylacetylene dicarboxylate (0.93 ml) as described in Example 1b gave a mixture of the two 5,7-regioisomers (800 mg). The isomers were separated by silica chromatography to give ethyl 7-chloro-5-ethyl-4-oxo-1,4-dihydroquinoline-2 -carboxylate (250 mg), mp 222°-3° C.; δ (360 MHz, DMSO-d6) 1.15 (3H, t, CH2CH3), 1.36 (3H, t, CO2CH2CH3), 3.25 (2H, q, CH2CH3), 4.42 (2H, q, CO2CH2) 6.57 (1H, s, 3-H), 7.12 (1H, d, 8-H), 7.87 (1H, d, 6-H) and 11.75 (1H, bs, NH); and ethyl 5-chloro-7-ethyl-4-oxo-1,4-dihydroquinoline-2-carboxylate (200 mg), mp 182°-3° C.; δ (360 MHz, DMSO-d6) 1.21 (3H, t, CH2CH3), 1.35 (3H, t, CO2CH2CH3), 2.67 (2H, q, CH2CH3), 4.40 (2H, q, CO2CH2) 6.56 (1H, s, 3-H), 7.28 (1H, d, 6-H), 7.73 (1H, d, 8-H) and 11.78 (1H, bs, NH).

reactant | 3-chloro-5-ethylaniline | 0.9 g | ClC=1C=C(N)C=C(C1)CC | C8H10ClN
reactant | diethylacetylene dicarboxylate | 0.93 ml | C(C)OC(=O)C#CC(=O)OCC | C8H10O4
product | ethyl 7-chloro-5-ethyl-4-oxo-1,4-dihydroquinoline-2 -carboxylate | 250 mg | ClC1=CC(=C2C(C=C(NC2=C1)C(=O)OCC)=O)CC | C14H14ClNO3
